US09428499B2
Step-a: Synthesis of 2-(3-Nitrophenyl)-N-(oxetan-3-yl)acetamide
THF (30 mL) was added to a mixture of 2-(3-Nitrophenyl)acetic acid (0.8 g, 4.42 mmol), CDI (1.07 g, 8.28 mmol), the mixture was stirred for 2 hrs at 0° C. followed by addition of triethylamine (1.8 ml, 13.25 mmol) and oxetan-3-amine (0.484 g, 6.62 mmol). The reaction mixture was stirred for 12 hrs at room temperature and then concentrated under vacuum. The crude residue was purified by column chromatography using 0-50% ethyl acetate in hexanes as eluent to afford the title product (0.5 g).

reactant | 2-(3-Nitrophenyl)acetic acid | 4.42 mmol, 0.8 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | CDI | 8.28 mmol, 1.07 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | triethylamine | 13.25 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | oxetan-3-amine | 6.62 mmol, 0.484 g | O1CC(C1)N | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(3-Nitrophenyl)-N-(oxetan-3-yl)acetamide | 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)NC1COC1 | C11H12N2O4
